US07608633B2
A. tert-Butyl-3-formylindole-5-carboxylate
0.4 ml (4.87 mmol) oxalylchloride are dissolved in a three-neck flask under nitrogen in 15 ml absolute dichloromethane and cooled to 0° C. Thereafter, 0.4 ml absolute dimethylformamide dissolved in 15 ml absolute dichloromethane is added. The mixture is stirred on ice cooling for 20 minutes, gas generation and the formation of a colorless precipitate being observed. Then, 1.00 g (4.64 mmol) tert-butylindole-5-carboxylate is added and the reaction mixture is allowed to heat to room temperature. Stirring is continued for another 20 min, the suspension is transferred using tetrahydrofurane to a round flask and concentrated on a rotary evaporator. The residue is taken up in 40 ml tetrahydrofurane, mixed with 50 ml 20% sodium acetate solution and heated under reflux for 30 minutes. After cooling down, 30 ml 5% sodium hydrogen carbonate solution are added, extracted three times using ethyl acetate, the volume of the combined organic phases is concentrated to about 150 ml and washed with saturated NaCl solution. The organic phase is dried on sodium sulfate and the solvent is removed on the rotary evaporator. Recrystallization of the crude product from n-hexane/ethyl acetate supplies the product as a solid.

reactant | oxalylchloride | 4.87 mmol, 0.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.4 ml | CN(C=O)C | C3H7NO
reactant | tert-butylindole-5-carboxylate | 4.64 mmol, 1.00 g | C(C)(C)(C)OC(=O)C=1C=C2C=CNC2=CC1 | C13H15NO2
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | tert-Butyl-3-formylindole-5-carboxylate | C(C)(C)(C)OC(=O)C=1C=C2C(=CNC2=CC1)C=O | C14H15NO3
